US05576335
To a solution of 4-fluoro-2-nitroaniline (1.56 g) and diisopropylamine (1.68 ml) in dichloromethane (20 ml) was added dropwise under ice-cooling phenyl chloroformate (1.51 g). After stirring the mixture at room temperature overnight, the reaction solution was washed with water, saturated saline, dried over anhydrous MgSO4 and the solvent was distilled off. Crystallization of the residue from diisopropyl ether afforded phenyl 4-fluoro-2-nitrophenylcarbamate (0.79 g, 29%) as crystals.

reactant | 4-fluoro-2-nitroaniline | 1.56 g | FC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | diisopropylamine | 1.68 ml | C(C)(C)NC(C)C | C6H15N
reactant | phenyl chloroformate | 1.51 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | phenyl 4-fluoro-2-nitrophenylcarbamate | 0.79 g, 29% | FC1=CC(=C(C=C1)NC(OC1=CC=CC=C1)=O)[N+](=O)[O-] | C13H9FN2O4
